US04067723
(±) 2-(α-Hydroxy-2-isopropylbenzyl)furan (b.p. 110° C./0.15 mm.Hg) was prepared by the procedure hereinbefore described in (i) for the preparation of (±) 2-α-hydroxybenzylfuran but replacing the bromobenzene by 2-isopropylbromobenzene (described by Crawford and Stuart, J.C.S., 1952, 4445).

reactant | (±) 2-α-hydroxybenzylfuran | OC(C1=CC=CC=C1)C=1OC=CC1 | C11H10O2
reactant | 2-isopropylbromobenzene | C(C)(C)C1=C(C=CC=C1)Br | C9H11Br
product | (±) 2-(α-Hydroxy-2-isopropylbenzyl)furan | OC(C1=C(C=CC=C1)C(C)C)C=1OC=CC1 | C14H16O2
